US07491718B2
methyl 2-amino-1-naphthoic acid
2-Amino-1-naphthoic acid (3.21 g, 17.2 mmol) in 4:1 benzene/CH3OH (125 mL) was treated with trimethylsilyldiazomethane (9.0 mL, 18.0 mmol, 2.0M solution in hexanes), stirred for 2.5 hours, quenched with acetic acid (0.5 mL), and concentrated. The concentrate was purified by flash column chromatography (4:1 hexanes/ethyl acetate) to provide the desired compound (3.25 g). MS (ESI(+)) m/e 202 (M+H)+; (ESI(−)) m/e 200 (M−H)−.

reactant | 2-Amino-1-naphthoic acid | 17.2 mmol, 3.21 g | NC1=C(C2=CC=CC=C2C=C1)C(=O)O | C11H9NO2
reactant | trimethylsilyldiazomethane | 18.0 mmol, 2.0M, 9.0 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | benzene CH3OH | 125 mL | C1=CC=CC=C1.CO
product | methyl 2-amino-1-naphthoic acid | 3.25 g | CC=1C(=C(C2=CC=CC=C2C1)C(=O)O)N | C12H11NO2
